US04970219
3-[(1H-Indol-5-yl)oxy]-4-pyridinamine
A suspension of 5-[(4-nitro-3-pyridinyl)oxy]-1H-indole, N5 -oxide (10 g) in 250 ml ethanol containing 0.4 g PtO2 was hydrogenated at 50 psi for 25 hours and thereafter filtered through Celite and concentrated to 9 g oil. This oil was purified by HPLC (silica, 10% methanol in ethyl acetate) to give 3.5 g solid. This solid was recrystallized from acetonitrile to give 2.4 g crystals, m.p. 170°-172°.

reactant | 5-[(4-nitro-3-pyridinyl)oxy]-1H-indole | [N+](=O)([O-])C1=C(C=NC=C1)OC=1C=C2C=CNC2=CC1 | C13H9N3O3
solvent | ethanol | 250 ml, 0.4 g | C(C)O | C2H6O
product | 3-[(1H-Indol-5-yl)oxy]-4-pyridinamine | 3.5 g | N1C=CC2=CC(=CC=C12)OC=1C=NC=CC1N | C13H11N3O
